US07659284B2
Methyl iodide (0.728 mL, 11.7 mmol) was added to (4-nitro-benzyl)-[(2R)-tetrahydro-furan-2-ylmethyl]-amine Compound 10a2 (1.84 g, 7.80 mmol) and potassium carbonate (3.23 g, 23.4 mmol) in DMF (30 mL). After 4 hrs the reaction was diluted with water and extracted with ethyl ether. The combined extracts were washed with water, dried over MgSO4, and evaporated down to give 1.43 g of methyl-(4-nitro-benzyl)-[(2R)-tetrahydro-furan-2-ylmethyl]-amine Compound 10a3. Using the procedure of Example 21, Compound 10a3 was used in place of Compound 21a2 and carried forward to prepare 4-({methyl-[(2R)-tetrahydro-furan-2-ylmethyl]-amino}-methyl)-phenylamine Compound 10a.

reactant | Methyl iodide | 11.7 mmol, 0.728 mL | CI | CH3I
reactant | (4-nitro-benzyl)-[(2R)-tetrahydro-furan-2-ylmethyl]-amine | [N+](=O)([O-])C1=CC=C(CNC[C@@H]2OCCC2)C=C1 | C12H16N2O3
reactant | potassium carbonate | 23.4 mmol, 3.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl-(4-nitro-benzyl)-[(2R)-tetrahydro-furan-2-ylmethyl]-amine | 1.43 g | CN(C[C@@H]1OCCC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C13H18N2O3
